US08003662B2
Step B: Preparation of 2-(4-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylamino)nicotinic acid:
A round-bottomed flask was charged with ethyl 2-(4-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylamino)nicotinate (0.100 g, 0.169 mmol) and THF (1 mL). NaOH (3.0 mL, 1N) was added and the mixture stirred for 1 hour. The mixture was then acidified to pH 6 with HCl aq. (1N) and extracted with EtOAc. The organics were dried (MgSO4), filtered and concentrated to get product as a yellow solid. LRMS (esi+) 565 m/z (M+1) detected.

reactant | ethyl 2-(4-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylamino)nicotinate | 0.169 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=NC=CC(=C2S1)OC1=C(C=C(C=C1)NC1=C(C(=O)OCC)C=CC=N1)F | C31H33FN4O5S
reactant | NaOH | 1N, 3.0 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(4-(2-(1-(tert-butoxycarbonyl)piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylamino)nicotinic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=NC=CC(=C2S1)OC1=C(C=C(C=C1)NC1=C(C(=O)O)C=CC=N1)F | C29H29FN4O5S
